US06583150B1
2) Synthesis of 4-Nitroquinoline-5,8-dione
400 mg (1.71 mmol) of 4-nitro-5,8-dimethoxyquinoline are dissolved in 10 mL of CH3CN and 5 mL of water at room temperature. 2.8 g (5.2 mmol) of cerium ammonium nitrate are added and the reaction medium is stirred for 15 min. After evaporating off the CH3CN on a rotary evaporator, 10 mL of water are added and the medium is extracted with CH2Cl2 (3 times 20 mL). After drying the organic phases and evaporating off the solvent on a rotary evaporator, 290 mg of 4-nitroquinoline-5,8-dione are obtained in the form of an orange powder.

reactant | 4-nitro-5,8-dimethoxyquinoline | 1.71 mmol, 400 mg | [N+](=O)([O-])C1=CC=NC2=C(C=CC(=C12)OC)OC | C11H10N2O4
reactant | water | 5 mL | O | H2O
reactant | cerium ammonium nitrate | 5.2 mmol, 2.8 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-Nitroquinoline-5,8-dione | [N+](=O)([O-])C1=CC=NC=2C(C=CC(C12)=O)=O | C9H4N2O4
